US05180419
Preparation of 2-Methyl-4,5-benzoxazoledicarboxylic anhydride
A 4:1 mixture of 3-acetamido-4-hydroxyphthalic acid and 2-methyl-4,5-benzoxazoledicarboxylic acid in acetic anhydride and concentrated sulfuric acid (0.10 mL) is stirred for 18 hours at 110° C., cooled and filtered. The white solid filter cake is air dried to give the title product, 5.39 g (77.1%), identified by NMR and IR spectral analyses.

reactant | 3-acetamido-4-hydroxyphthalic acid | C(C)(=O)NC1=C(C(C(=O)O)=CC=C1O)C(=O)O | C10H9NO6
reactant | 2-methyl-4,5-benzoxazoledicarboxylic acid | CC=1OC2=C(N1)C(=C(C=C2)C(=O)O)C(=O)O | C10H7NO5
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | sulfuric acid | 0.10 mL | S(O)(O)(=O)=O | H2O4S
product | 2-Methyl-4,5-benzoxazoledicarboxylic anhydride | CC=1OC2=C(N1)C1=C(C=C2)C(=O)OC1=O | C10H5NO4
